US03932630
An amount of 23.2 g of 1-phenyl-5-mercapto-1,2,4-triazole, M.P. 220°C, is placed into 50 ml of acetone, 50 ml of water and 10 ml of methyliodide. An addition is then made in portions, within 15 minutes, of 21 g of sodium carbonate, and, after completion of the addition, stirring continued for 1 hour at 30°C. The acetone is evaporated off, and the solution acidified with dilute hydrochloric acid. The precipitated product is filtered off, and recrystallised from 250 ml of ethanol to obtain 1-phenyl-5-methylmercapto-3-hydroxy-1,2,4-triazole in the form of white crystals having a melting point of 176°-177°C.

reactant | 1-phenyl-5-mercapto-1,2,4-triazole | 23.2 g | C1(=CC=CC=C1)N1N=CN=C1S | C8H7N3S
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | methyliodide | 10 ml | CI | CH3I
reactant | sodium carbonate | 21 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 50 ml | O | H2O
product | 1-phenyl-5-methylmercapto-3-hydroxy-1,2,4-triazole | C1(=CC=CC=C1)N1N=C(N=C1SC)O | C9H9N3OS
